US07488832B2
Step 3. (2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetic acid
To a solution of methyl(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetate (203 mg, 0.66 mmol) in THF (1 ml) was added aqueous 1N LiOH (1 ml) at room temperature. After 3 h stirring at room temperature, the reaction was quenched with H2O (10 ml). The aqueous was extracted with Et2O (2×10 ml). The aqueous was acidified with 1N HCl to pH˜3, extracted with EtOAc (3×15 ml). The combined organic extracts were washed with H2O (15 ml), brine (15 ml), dried (Na2SO4) and concentrated. The crude material was purified by chromatography (EtOAc/MeOH: 95/5) to provid the titled compound (185 mg, 96%) as a solid: mp 137-139° C.; MS (+) ES, 292 (M+H)+.

reactant | methyl(2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetate | 0.66 mmol, 203 mg | COC(CN1C(=CC=C1C1=CC=CC=C1)CC1=CC=CC=C1)=O | C20H19NO2
reactant | LiOH | 1N, 1 ml | [Li+].[OH-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (2-benzyl-5-phenyl-1H-pyrrol-1-yl)acetic acid | 185 mg, 96% | C(C1=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC(=O)O | C19H17NO2
